US04267364
Methyl perfluoro-4-methyl-3,6-dioxa-7-octenoate
A mixture of 10 g crude methyl perfluoro-7,8-dichloro-4-methyl-3,6-dioxaoctanoate, 5 g zinc dust, 50 ml anhydrous diethylene glycol dimethyl ether and 0.1 g iodine was heated to 140° C., and then distilled. The distillate was washed with water and the product chromatographed to yield appreciable amounts of CF2 =CFOCF2CF(CF3)OCF2COOCH3. The structure of the final product was proven by IR spectroscopy and by conversion with bromine to CF2BrCFBrOCF2CF(CF3)OCF2COOCH3. The structure of the vinyl ether was further confirmed by its boiling point, 75° C. at 50 mm of Hg, and its NMR spectrum.

reactant | methyl perfluoro-7,8-dichloro-4-methyl-3,6-dioxaoctanoate | 10 g | FC(C(=O)OC)(OC(C(OC(C(Cl)(F)F)(Cl)F)(F)F)(C(F)(F)F)F)F | C8H3Cl2F11O4
reactant | iodine | 0.1 g | II | I2
catalyst | zinc | 5 g | [Zn] | Zn
solvent | diethylene glycol dimethyl ether | 50 ml | COCCOCCOC | C6H14O3
product | Methyl perfluoro-4-methyl-3,6-dioxa-7-octenoate | FC(C(=O)OC)(OC(C(OC(=C(F)F)F)(F)F)(C(F)(F)F)F)F | C8H3F11O4
